US07041696B2
Preparation of (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic acid allyl ester (104).
A solution of the crude 3-Allyloxycarbonylamino-4,4-diethoxy-butyric acid tert-butyl ester, 103, obtained in the procedure above, in CH2Cl2 (50 mL) is treated with triflouroacetic acid (50 mL). After the consumption of starting material, the organics are reduced under vacuum. The residual triflouroacetic acid is removed with ethyl acetate by azeotroping conditions. The final residue is purified over silica (hexanes/ethyl acetate 80:20) to afford 10.1 g (85% yield) of the desired product as a slightly yellow oil. 1H-NMR, (300 MHz, CDCl3): δ 1.23 (m, 3H), 2.41–2.54 (m, 1H), 2.82–3.06 (m, 2H), 3.61–3.73 (m, 1H), 3.82–3.98 (m, 1H), 4.06–4.25 (m, 1H), 4.61 (br s, 2H), 5.24–5.53 (m, 3H), 5.86–6.01 (m, 1H); MS (ESI): m/e=230.03 (M+H).

reactant | 3-Allyloxycarbonylamino-4,4-diethoxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(C(OCC)OCC)NC(=O)OCC=C)=O | C16H29NO6
reactant | triflouroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic acid allyl ester | 10.1 g, 85% yield | C(C=C)OC(NC1C(OC(C1)=O)OCC)=O | C10H15NO5
